US04584295
A mixture of 6.5 g (0.036 mol) of 4-hydroxy-2-isopropyl-6-methyl-pyrimidine and 16.8 g (0.108 mol) of phosphorus oxychloride in 40 ml of chloroform is heated at reflux for 2 hours. The solution is then concentrated under reduced pressure, the residue is poured into water and the aqueous phase is extracted twice with 100 ml of n-hexane each time. The organic phase is dried over anhydrous sodium sulphate and subsequently evaporated. There is obtained 4-chloro-2-isopropyl-6-methyl-pyrimidine in the form of an orange oil, 1H-NMR (CDCl3): 1.32 (d, CH(CH3)2), 2.48 (s, CH3), 3.17 (m, CH(CH3)2), 7.03 (s, CH).

reactant | 4-hydroxy-2-isopropyl-6-methyl-pyrimidine | 0.036 mol, 6.5 g | OC1=NC(=NC(=C1)C)C(C)C | C8H12N2O
reactant | phosphorus oxychloride | 0.108 mol, 16.8 g | P(=O)(Cl)(Cl)Cl | Cl3OP
solvent | chloroform | 40 ml | C(Cl)(Cl)Cl | CHCl3
product | 4-chloro-2-isopropyl-6-methyl-pyrimidine | ClC1=NC(=NC(=C1)C)C(C)C | C8H11ClN2
